US05648382
74 ml (0.118 mol) of n-butyllithium (1.6 molar in hexane) are added dropwise, under a nitrogen atmosphere, to a solution, cooled to -78° C., of 25 ml (0.157 mol) of 5-phenylpentyne in 400 ml of anhydrous diethyl ether. The whole is stirred at -78° C. for 15 minutes and then at 0° C. for 75 minutes. There is then added dropwise to that solution a solution, cooled to -78° C., of 6-methoxy-1-oxa-spiro[2.5]oct-5-en-4-one (11 g; 71.33 mmol) in 80 ml of anhydrous toluene. After 1 hour's stirring at -78° C., the reaction mixture is poured into an aqueous 10% ammonium chloride solution (1000 ml). Conventional treatment of the organic phase yields 22 g (74 mmol) of 4-hydroxy-6-methoxy-4-(5-phenylpenten-1-yl)-1-oxa-spiro[2.5]octene (2 isomers) in the form of an oily residue which is used in the following step without being purified. Hydrogenation of a solution of 22 g (74 mmol) of that mixture of isomers in 610 ml of benzene in the presence of 10 g of Lindlar catalyst for a period of 7 hours results, after filtration and evaporation, in 22 g (73 mmol) of 4-hydroxy-6methoxy-4-(5-phenylpentyl)-1-oxa-spiro[2.5]oct-5-ene in the form of an oily residue which is used in the following step without being purified.

reactant | n-butyllithium | 0.118 mol, 1.6 molar, 74 ml | C(CCC)[Li]
reactant | 5-phenylpentyne | 0.157 mol, 25 ml | C1(=CC=CC=C1)CCCC#C | C11H12
reactant | 6-methoxy-1-oxa-spiro[2.5]oct-5-en-4-one | 71.33 mmol, 11 g | COC1=CC(C2(CO2)CC1)=O | C8H10O3
reactant | ammonium chloride | 1000 ml | [Cl-].[NH4+]
solvent | diethyl ether | 400 ml | C(C)OCC | C4H10O
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 4-hydroxy-6-methoxy-4-(5-phenylpenten-1-yl)-1-oxa-spiro[2.5]octene | 74 mmol, 22 g | OC1(C2(CO2)CCC(=C1)OC)C=CCCCC1=CC=CC=C1 | C19H24O3
